US09102674B2
According to Scheme A, ethyl 4-hydroxy-7-methoxyquinoline-3-carboxylate (VIII) is obtained in four steps from commercially available synthetically accessible m-anisidine (II). m-Anisidine is combined with diethyl ethoxymethylenemalonate at temperatures ranging from 100° C. to about 125° C., preferably 125° C. for a period of 1 to 5 h, preferably about 3 h to provide diethyl 2-(((3-methoxyphenyl)amino)methylene)malonate. Ethyl 4-hydroxy-7-methoxyquinoline-3-carboxylate (III) is obtained by heating Dowtherm™ at a temperature of 257° C. and diethyl 2-(((3-methoxyphenyl)amino)methylene)malonate for a period of 15 minutes to 2 h. Compound (IV) ethyl 7-methoxyquinoline-3-carboxylate is commercially available or synthetically accessible from ethyl 4-hydroxy-7-methoxyquinoline-3-carboxylate (III) in two steps. Chlorination of compound (III) under conditions known to one skilled in the art, for example, but not limited to, oxalyl chloride, thionyl chloride, or phosphorus oxychloride, with or without a catalytic amount of DMF, in the presence or absence of a solvent such as DCM or CHCl3, at temperatures ranging from 50° C. to about 70° C., for a period ranging from 2 to 4 h, preferably 2.5 h, provides ethyl 4-chloro-7-methoxyquinoline-3-carboxylate. Subsequent reduction of ethyl 4-chloro-7-methoxyquinoline-3-carboxylate, employing Pd/C under hydrogenation conditions, in a solvent such as MeOH or EtOH, in the presence or absence of an acid such as acetic or formic acid, provides ethyl 7-methoxyquinoline-3-carboxylate (IV). Commercially available or synthetically accessible ethyl 7-methoxyquinoline-3-carboxylate (IV) is reacted under demethylation conditions, for example, HBr in H2O or HOAc, at temperatures ranging from 80° C. to about 110° C., preferably 105° C. for a period of 0.5 h to 24 h, preferably about 2 h, to provide 7-hydroxyquinoline-3-carboxylic acid. Ethyl 7-hydroxyquinoline-3-carboxylate (V), where R3 is H, is obtained by esterification of 7-hydroxyquinoline-3-carboxylic acid, employing methods known to one skilled in the art, for example, but not limited to, reaction of 7-hydroxyquinoline-3-carboxylic acid with an acid such as H2SO4, and the like, in a solvent such as EtOH, at temperatures ranging from 60° C. to about 80° C., preferably 75° C. for a period of about 12 to 24 h, preferably 20 h.

reactant | m-Anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl 2-(((3-methoxyphenyl)amino)methylene)malonate | COC=1C=C(C=CC1)NC=C(C(=O)OCC)C(=O)OCC | C15H19NO5
